### PR TITLE
Week 5

### LINKED ISSUE #18: Week 5 (Inductive types)
- type theory and structures

### PR DESCRIPTION
**Pull request by AdrianDoM**
Intro to inductive types, subtypes and quotient types. I used some of Monica's great exercises for the session and the homework.

### CODE REVIEW

File: Formal2024/Homeworks/homework5.lean
Comment (themathqueen) [inline Formal2024/Homeworks/homework5.lean:1]: Ah, I was thinking of keeping these as additional exercises to the ones you would come up with!

File: Formal2024/Homeworks/homework5.lean [hunk 1]
```diff
@@ -0,0 +1,134 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: The Lean Team
+-/
+import Library
+
+/-!
+  # Homework 5: More on types
+  References: [MIL] Mathematics in Lean, [Tut] Tutorials project.
+  This week we will also use the textbook [TPL] Theorem Proving in Lean 4, which can
+  be found at https://leanprover.github.io/theorem_proving_in_lean4/
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework5.lean:12]: I think you can remove this for this file

File: Formal2024/Homeworks/homework5.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+  sorry
+
+
+/-
+  ## Q2: Types and logic
+  Here we examine some interesting interactions between types and logic.
+-/
+
+-- Lean has an inductive type (class) called `Nonempty`. It represents when a type has at least
+-- one term. You can `Ctrl+Click` on `Nonempty` to see its definition.
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework5.lean]:
```suggestion
-- one term. You can `ctrl/cmd + click` on `Nonempty` to see its definition.
```

File: Formal2024/Homeworks/homework5.lean
Comment (AdrianDoM) [reply Formal2024/Homeworks/homework5.lean:1]: I see! I'll try to add a couple more, especially one with more `induction ... using ...`.

Comment (themathqueen) [reply Formal2024/Homeworks/homework5.lean:1]: I like the comments you added before the exercises tho!

So if you do want to add additional exercises to the ones I made in that file, then you should add those comments to the pr I made pr #21

File: Formal2024/Workshops/workshop5.lean [hunk 3]
```diff
@@ -0,0 +1,367 @@
...
+  This is very useful, since functions in Lean are defined between types, not sets.
+-/
+
+-- Subtype takes a type `α` and a predicate `p : α → Prop` on that type, and returns a new type
+-- whose terms are a term `a` of `α` and a proof of `p a`. (How does this relate to `∃`?)
+#check Subtype
+#check Subtype (fun n : ℕ => n > 0)
+
+-- Actually, `Subtype` itself is just an inductive type.
+-- Can you guess how it is defined? (Or `Ctrl+Click` your way through!)
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
-- Can you guess how it is defined? (Or `ctrl/cmd + click` your way through!)
```

File: Formal2024/Workshops/workshop5.lean [hunk 4]
```diff
@@ -0,0 +1,367 @@
...
+-- previous one:
+#check { n : ℕ // n > 0 }
+-- These are just regular `/` on your keyboard.
+-- In mathlib, this type is called `ℕ+`.
+
+-- Terms of a subtype have convenient projections.
+variable (n : ℕ+)
+#check n.val
+#check n.prop
+-- The notation `↑n` shown in the Infoview is Lean's less visually intrusive way of saying `n.val`.
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
-- The notation `↑n` shown in the Infoview is Lean's visually less intrusive way of saying `n.val`.
```

File: Formal2024/Workshops/workshop5.lean [hunk 5]
```diff
@@ -0,0 +1,367 @@
...
+#check Subtype
+#check Subtype (fun n : ℕ => n > 0)
+
+-- Actually, `Subtype` itself is just an inductive type.
+-- Can you guess how it is defined? (Or `Ctrl+Click` your way through!)
+
+-- Lean has a convenient notation for subtypes. For example, this is the same subtype as that
+-- previous one:
+#check { n : ℕ // n > 0 }
+-- These are just regular `/` on your keyboard.
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
-- These are just regular forward slashes `/` on your keyboard.
```

File: Formal2024/Workshops/workshop5.lean [hunk 6]
```diff
@@ -0,0 +1,367 @@
...
+-- The notation `↑n` shown in the Infoview is Lean's less visually intrusive way of saying `n.val`.
+-- This `↑` is called a coercion, about which we will learn more next week.
+
+/-
+  # Exercises
+-/
+
+-- 4. Define the subtype of even natural numbers.
+
+def ℕeven : Type := sorry
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
def NatEven : Type := sorry
```

File: Formal2024/Workshops/workshop5.lean [hunk 7]
```diff
@@ -0,0 +1,367 @@
...
+
+-- Now define a function from `ℕ → ℕeven` that takes a natural number `n` and returns `2 * n`.
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
-- Now define a function from `ℕ → NatEven` that takes a natural number `n` and returns `2 * n`.
```

File: Formal2024/Workshops/workshop5.lean [hunk 8]
```diff
@@ -0,0 +1,367 @@
...
+
+def double (n : ℕ) : ℕeven := sorry
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
def double (n : ℕ) : NatEven := sorry
```

File: Formal2024/Workshops/workshop5.lean [hunk 9]
```diff
@@ -0,0 +1,367 @@
...
+#check Equivalence
+
+-- A type equipped with an equivalence relation is a `Setoid`. This is defined as a `class` which
+-- is a particular kind of structure. We will learn more about classes next week.
+#check Setoid
+
+-- For example, here is a `Setoid`:
+variable (n : ℕ)
+
+def ℕmodRel : Setoid ℕ where
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
def NatModRel : Setoid ℕ where
```

File: Formal2024/Workshops/workshop5.lean [hunk 10]
```diff
@@ -0,0 +1,367 @@
...
+  r := fun a b => a % n = b % n
+  iseqv := ⟨fun x => rfl,
+    fun hxy => hxy.symm,
+    fun hxy hyz => by rw [hxy, hyz]⟩
+-- This is some convenient syntax for constructing structures. We will see more about it next week.
+-- We provide a relation `r` and a proof that it is an equivalence relation `iseqv`.
+
+-- The type of equivalence classes of a `Setoid` is constructed using `Quotient`.
+def ℕmod : Type := Quotient (ℕmodRel n)
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
def NatMod : Type := Quotient (NatModRel n)
```

File: Formal2024/Workshops/workshop5.lean [hunk 11]
```diff
@@ -0,0 +1,367 @@
...
+
+-- To produce an element of a quotient, we use `mk` or `⟦⟧`.
+#check Quotient.mk (ℕmodRel n)
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
#check Quotient.mk (NatModRel n)
```

File: Formal2024/Workshops/workshop5.lean [hunk 12]
```diff
@@ -0,0 +1,367 @@
...
+#check (⟦0⟧ : ℕmod n)
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
#check (⟦0⟧ : NatMod n)
```

File: Formal2024/Workshops/workshop5.lean [hunk 13]
```diff
@@ -0,0 +1,367 @@
...
+
+-- To define a function out of a quotient type, we use the universal property.
+-- This can be accessed with `Quotient.lift`.
+#check Quotient.lift
+
+-- `Quotient.sound` is useful for showing that two terms of the quotient are equal.
+#check Quotient.sound
+
+-- For example, we can define a sucessor function on `ℕmod n`.
+def modSucc {n : ℕ} : ℕmod n → ℕmod n:=
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
def modSucc {n : ℕ} : NatMod n → NatMod n:=
```

File: Formal2024/Workshops/workshop5.lean [hunk 14]
```diff
@@ -0,0 +1,367 @@
...
+  Quotient.lift (λ k ↦ ⟦k + 1⟧) (by
+    intro a b h
+    apply Quot.sound
+    dsimp [ℕmodRel]
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
    dsimp [NatModRel]
```

File: Formal2024/Workshops/workshop5.lean [hunk 15]
```diff
@@ -0,0 +1,367 @@
...
+    rw [Nat.add_mod a, Nat.add_mod b, h]
+  )
+
+-- Lastly, `Quotient.ind` lets us prove things about terms in a quotient type if we
+-- can prove them for any representative.
+#check Quotient.ind
+
+example : (k : ℕmod n) → ∃ h, k = ⟦h⟧ := by
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
example : (k : NatMod n) → ∃ h, k = ⟦h⟧ := by
```

File: Formal2024/Workshops/workshop5.lean [hunk 16]
```diff
@@ -0,0 +1,367 @@
...
+  apply Quotient.ind
+  intro h
+  exact ⟨h, rfl⟩
+
+-- This is a bit like an induction proof, so we can use the `induction'` tactic.
+-- This is one of the reasons `induction'` is more powerful than `induction`.
+example (k : ℕmod n) : ∃ h, k = ⟦h⟧ := by
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
example (k : NatMod n) : ∃ h, k = ⟦h⟧ := by
```

File: Formal2024/Workshops/workshop5.lean [hunk 17]
```diff
@@ -0,0 +1,367 @@
...
+-/
+
+-- 5. Check the following property of `modSucc`.
+
+-- You might want to use the following.
+#check Quotient.lift_mk
+#check Quot.sound
+#check Nat.sub_add_cancel
+
+example (hn : n ≥ 1) : modSucc (⟦n - 1⟧ : ℕmod n) = ⟦0⟧ := by
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
example (hn : n ≥ 1) : modSucc (⟦n - 1⟧ : NatMod n) = ⟦0⟧ := by
```

File: Formal2024/Workshops/workshop5.lean [hunk 18]
```diff
@@ -0,0 +1,367 @@
...
+  letI := ℕmodRel n
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
  letI := NatModRel n
```

File: Formal2024/Workshops/workshop5.lean [hunk 19]
```diff
@@ -0,0 +1,367 @@
...
+  sorry
+
+lemma even_or_odd (n : ℕ) : even n ∨ odd n := by
+  sorry
+
+-- If you would like some more practice, come up with your own lemmas about how `even` and `odd`
+-- interact with other operations on the natural numbers. For example, you could prove that the sum
+-- of two even numbers is even, or that the sum of an even and an odd number is odd.
+
+end
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop5.lean:411]: We can keep this in the separate `exercises` file too?

File: Formal2024/Homeworks/homework5.lean
Comment (AdrianDoM) [reply Formal2024/Homeworks/homework5.lean:1]: I'm not sure how to go about this. I would like to keep the ones about `even` and `odd` in the workshop sheet, but instead of having so many lemmas given to them explicitly, have a few and them let them write the rest (or as many as they like) themselves. For the rest of the exercises I can just move my file with the comments into that PR, and add a couple more exercises.

File: Formal2024/Workshops/workshop5.lean (hunk 19 above)
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop5.lean:411]: So do you plan to have exercises separate from the homework? I guess I don't know what you mean

Comment (themathqueen) [reply Formal2024/Workshops/workshop5.lean:411]: Yeah, I wanted to have `Exercises` be separate from `Homeworks`.

But, we can keep this here, like you said in the previous comment

Comment (themathqueen) [reply Formal2024/Workshops/workshop5.lean:411]: But change `even` and `odd` to `MyEven` and `MyOdd`, respectively. Because you don't want to have `Even` and `even` both defined in the same file

File: Formal2024/Homeworks/homework5.lean
Comment (themathqueen) [reply Formal2024/Homeworks/homework5.lean:1]: Check this [example](https://hrmacbeth.github.io/math2001/10_Relations.html#id4) out

File: Formal2024/Workshops/workshop5.lean [hunk 20]
```diff
@@ -0,0 +1,367 @@
...
+-- Lean also creates a convenient namespace for the type and its constructors.
+namespace MyBool
+
+-- Inside the namespace, the constructor names are shorter:
+#check false
+#check true
+
+-- To use this type, we can use *pattern matching*. (Pay attention to the syntax!)
+def and : MyBool → MyBool → MyBool
+  | true, true => false
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop5.lean]: I think you mean:

```suggestion
  | true, true => true
```

File: Formal2024/Workshops/workshop5.lean [hunk 21]
```diff
@@ -0,0 +1,367 @@
...
+example : MyExists (fun x : ℕ ↦ x > 0) := MyExists.intro 1 (by norm_num)
+
+-- When we have a inductive type with only one constructor, we can use the *anonymous constructor*.
+example : MyExists (fun x : ℕ ↦ x > 0) := ⟨1, by norm_num⟩
+
+example (h : MyExists (fun x : ℕ ↦ x < 0)) : False := by
+  rcases h with ⟨n, hn⟩
+  norm_num at hn
+
+-- Inductive types with only one constructor all called *structures*. We will learn more
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop5.lean]:
```suggestion
-- Inductive types with only one constructor are called *structures*. We will learn more
```

File: Formal2024/Workshops/workshop5.lean
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop5.lean:1]: This looks great. I will just flag 2 things that it doesn't cover, that we may want to cover here or in a future week:
- function/Pi types are not really mentioned in detail
- we briefly talked about universe levels before, but at some point we should go through some examples to help them understand how Lean figures out the universe level of a type, and mention that `Sort` is just a re-indexed hierarchy for `Type` starting with `Prop` at 0 (i think?)

File: Formal2024/Homeworks/homework5.lean
Comment (AdrianDoM) [reply Formal2024/Homeworks/homework5.lean:1]: That looks quite fun, but I've just added a bunch of exercises on inductive types. We can add that example to the separate `Exercises` file.

File: Formal2024/Homeworks/homework5.lean (hunk 1 above)
Comment (AdrianDoM) [reply Formal2024/Homeworks/homework5.lean:12]: All the previous homework files had it. I don't see any harm in leaving it.

File: Formal2024/Workshops/workshop5.lean (hunk 19 above)
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop5.lean:411]: It's the same definition, so we don't need to repeat it within one file.

File: Formal2024/Workshops/workshop5.lean
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop5.lean:1]: Just added some comments about this.

File: Formal2024/Workshops/workshop5.lean (hunk 19 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop5.lean:411]: I meant `Nat.Even` and `Nat.Odd` are always going to be there with the imported files. So naming it something else besides making it lowercase would be a sound idea

File: Formal2024/Homeworks/homework5.lean
Comment (AdrianDoM) [reply Formal2024/Homeworks/homework5.lean:1]: I've moved the commented versions to pr #21

File: Formal2024/Workshops/workshop5.lean [hunk 22]
```diff
@@ -0,0 +1,402 @@
...
+#check And
+#check Or
+#check Exists
+#check Iff
+#check ℕ
+#check ℤ
+#check Prod
+#check Unit
+#check Empty
+
```
Comment (SimoneCastellan) [inline Formal2024/Workshops/workshop5.lean:212]: My only concern is that most of these are structures. We say that a structure is an inductive type with only one constructor, but without knowing the syntax if they Ctr click for example Prod they'll see something that looks like an inductive type with two constructors.

Comment (AdrianDoM) [reply Formal2024/Workshops/workshop5.lean:212]: That's fair. I'll add a brief comment saying how the structure syntax works, hopefully not spoiling too much for next week.

File: Formal2024/Workshops/workshop5.lean [hunk 23]
```diff
@@ -0,0 +1,402 @@
...
+#check Quotient.lift_mk
+#check Quot.sound
+#check Nat.sub_add_cancel
+
+example (hn : n ≥ 1) : modSucc (⟦n - 1⟧ : NatMod n) = ⟦0⟧ := by
+  letI := NatModRel n
+  -- This line will make `Quotient.lift_mk` work. You can ignore it for now. We will see more
+  -- about it next week when we talk about typeclasses.
+  sorry
+
```
Comment (SimoneCastellan) [inline Formal2024/Workshops/workshop5.lean:376]: Not sure if there is a better way, but I tried doing this exercise and at some point I had to simplify the symbol `≈` to get norm_num to worl. In case that's something we need to explain how to do.
```lean
example (hn : n ≥ 1) : modSucc (⟦n - 1⟧ : ℕmod n) = ⟦0⟧ := by
  letI := ℕmodRel n
  apply Quotient.sound
  rw [Nat.sub_add_cancel hn]
  simp only [(· ≈ ·), ℕmodRel]
  norm_num   
```

Comment (AdrianDoM) [reply Formal2024/Workshops/workshop5.lean:376]: There's a few ways you can do it, but I imagine that is something they might try. I added a comment about this.
